US09227923B2
4-(Chloromethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]benz amide (1.2 g) was dissolved in N,N-dimethylformamide (15 ml). To the solution, potassium phthalimide (0.95 g) and potassium iodide (0.09 g) were added and the mixture was stirred under heating at 60° C. for 2 hours. After adjusting to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with water and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was washed with tert-butyl methyl ether to obtain 4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-methyl]-N-[2-ethyl-4-(1,1,1,2,3,3,3-hepta-fluoropropan-2-yl)-6-methylphenyl]-benzamide (0.85 g, yield 56%).

reactant | 4-(Chloromethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]benz amide | 1.2 g | ClCC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C20H17ClF7NO
reactant | potassium phthalimide | 0.95 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium iodide | 0.09 g | [I-].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-methyl]-N-[2-ethyl-4-(1,1,1,2,3,3,3-hepta-fluoropropan-2-yl)-6-methylphenyl]-benzamide | 0.85 g, yield 56% | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C28H21F7N2O3
